### PR TITLE
feat: proved T4 and T817

### LINKED ISSUE #259: T4: Countably compact (P19) => Pseudocompact (P22)
Add a formalisation for [Theorem 4](https://topology.pi-base.org/theorems/T000004), which says that a space which is [Countably compact](https://topology.pi-base.org/properties/P000019) is [Pseudocompact](https://topology.pi-base.org/properties/P000022).

### LINKED ISSUE #1244: T817: Discrete (P52) => Toronto (P219)
Add a formalisation for [Theorem 817](https://topology.pi-base.org/theorems/T000817), which says that a space which is [Discrete](https://topology.pi-base.org/properties/P000052) is [Toronto](https://topology.pi-base.org/properties/P000219).

### PR DESCRIPTION
**Pull request by Michaillus**
This was also done as an exercise at our local Lean meetups for beginners XD

Solves #259 
Solves #1244

### CODE REVIEW

File: PiBaseLean/Theorems/T817/Theorem.lean [hunk 1]
```diff
@@ -0,0 +1,29 @@
...
+open Topology Set Function
+
+namespace PiBase
+
+/-- Theorem T817: P52 (DiscreteTopology) => P219 (TorontoSpace) -/
+theorem instTorontoSpaceOfDiscreteTopology (X : Type u)
+    [TopologicalSpace X] [DiscreteTopology X] :
+    TorontoSpace X := by
+  refine ⟨fun _ h ↦ ⟨Cardinal.eq.mp h |>.some, ?_, ?_⟩⟩
+  <;> exact continuous_of_discreteTopology
```
Comment (felixpernegger) [inline PiBaseLean/Theorems/T817/Theorem.lean]:
```suggestion
theorem instTorontoSpaceOfDiscreteTopology (X : Type u)
    [TopologicalSpace X] [DiscreteTopology X] : TorontoSpace X := by
  ⟨fun _ h ↦ ⟨Cardinal.eq.mp h |>.some, continuous_of_discreteTopology, continuous_of_discreteTopology⟩⟩
```
we can get rid of tactic mode enitirely

**Review by felixpernegger — APPROVED** [review]
thanks! Great to see 2 PRs!

File: PiBaseLean/Theorems/T817/Theorem.lean (hunk 1 above)
Comment (Michaillus) [reply PiBaseLean/Theorems/T817/Theorem.lean]: I think you meant to remove "by") That's neater, indeed. I applied the change.
